US09278983B2
A mixture of 2-(2-ethylsulfonyl-4-trifluoromethylphenyl)-3-methyl-6-trifluoromethylsulfinyl-3H-imidazo[4,5-b]pyridine (0.26 g), sodium tungstate dihydrate (36 mg), 30% of aqueous hydrogen peroxide solution (1 ml) and acetonitrile (5 ml) was stirred under reflux for 4.5 hours. The mixture was cooled to room temperature. Into the reaction mixture, water was poured, and extracted with ethyl acetate. The combined organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 0.24 g of 2-(2-ethylsulfonyl-4-trifluoromethylphenyl)-3-methyl-6-trifluoromethylsulfonyl-3H-imidazo[4,5-b]pyridine (hereinafter, Present Compound 302).

reactant | 2-(2-ethylsulfonyl-4-trifluoromethylphenyl)-3-methyl-6-trifluoromethylsulfinyl-3H-imidazo[4,5-b]pyridine | 0.26 g | C(C)S(=O)(=O)C1=C(C=CC(=C1)C(F)(F)F)C1=NC=2C(=NC=C(C2)S(=O)C(F)(F)F)N1C | C17H13F6N3O3S2
reactant | hydrogen peroxide | 1 ml | OO | H2O2
reactant | acetonitrile | 5 ml | C(C)#N | C2H3N
catalyst | sodium tungstate dihydrate | 36 mg | O.O.[O-][W](=O)(=O)[O-].[Na+].[Na+]
solvent | water | O | H2O
product | 2-(2-ethylsulfonyl-4-trifluoromethylphenyl)-3-methyl-6-trifluoromethylsulfonyl-3H-imidazo[4,5-b]pyridine | 0.24 g | C(C)S(=O)(=O)C1=C(C=CC(=C1)C(F)(F)F)C1=NC=2C(=NC=C(C2)S(=O)(=O)C(F)(F)F)N1C | C17H13F6N3O4S2
